US05925766
a. 4-Chloro-2-[[(1-methylethylidene)amino]oxy]benzonitrile
In 75 ml of dry N,N-dimethylformamide was dissolved acetone oxime (1.21 g), followed by potassium tertiary butoxide (1.85 g) and stirred under nitrogen. After 30 minutes, 4-chloro-2-nitro-benzonitrile (2.00 g) was added. After an additional 30 minutes the reaction was poured into water (500 ml) and filtered. The solid was collected and dissolved in DCM (250 ml), dried (MgSO4), and concentrated in vacuo. The resulting solid was recrystallized from ethanol to yield 1.5 g of the product, m.p. 83-84° C.

reactant | acetone oxime | 1.21 g | CC(C)=NO | C3H7NO
reactant | potassium tertiary butoxide | 1.85 g | CC(C)([O-])C.[K+]
reactant | 4-chloro-2-nitro-benzonitrile | 2.00 g | ClC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | water | 500 ml | O | H2O
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-2-[[(1-methylethylidene)amino]oxy]benzonitrile | 1.5 g | ClC1=CC(=C(C#N)C=C1)ON=C(C)C | C10H9ClN2O
